US08030311B2
A solution of 5-imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid ethyl ester (297 mg, 0.924 mmol) and 1N LiOH (1 mL, 1 mmol) in THF (1.7 mL) is stirred at rt for 15 min. THF is removed in vacuo, the residue taken up in EtOAC and washed with 1N LiOH. The aqueous layer was acidified with 1M HCl and extracted with EtOAc. The organic layer was washed with brine, dried with MgSO4, filtered and concentrated. (R/S)-5-Imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid is obtained as a brown solid. Title compound: 1H NMR (DMSO-d6): 9.0 (s, 1H), 8.5 (d, 1H), 8.4 (d, 1H), 8.3 (s, 1H), 8.2 (d, 1H) 7.9 (d, 1H), 7.4 (dd, 1H) 4.4 (m, 1H), 3.0 (m, 2H); tR=0.9 min (System 2).

reactant | 5-imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid ethyl ester | 0.924 mmol, 297 mg | C(C)OC(=O)C1CC(C2=CC(=CC=C12)N1C=NC=2C1=NC=CC2)=O | C18H15N3O3
reactant | LiOH | 1 mmol, 1N, 1 mL | [Li+].[OH-]
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | (R/S)-5-Imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid | N1=CN(C2=NC=CC=C21)C=2C=C1C(CC(C1=CC2)C(=O)O)=O | C16H11N3O3
